US07728025B2
(Step 3) Production of N-(4-(2-((t-butyl(dimethyl)silyl)oxy)-1,4-dihydroxybutyl)-3-fluorophenyl)pyridine-2-carboxamide
114 mg of sodium borohydride was added to a methanol (20 ml) solution of 860 mg of N-(4-(2-((t-butyl(dimethyl)silyl)oxy)-4-hydroxybutanoyl)-3-fluorophenyl)pyridine-2-carboxamide, with cooling with ice, and the reaction liquid was stirred at room temperature for 30 minutes. Aqueous saturated sodium bicarbonate solution was added to the reaction liquid, extracted with chloroform, and dried with anhydrous sodium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: chloroform/methanol=100/1) to obtain the entitled compound as a white solid.

reactant | sodium borohydride | 114 mg | [BH4-].[Na+]
reactant | N-(4-(2-((t-butyl(dimethyl)silyl)oxy)-4-hydroxybutanoyl)-3-fluorophenyl)pyridine-2-carboxamide | 860 mg | [Si](C)(C)(C(C)(C)C)OC(C(=O)C1=C(C=C(C=C1)NC(=O)C1=NC=CC=C1)F)CCO | C22H29FN2O4Si
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | N-(4-(2-((t-butyl(dimethyl)silyl)oxy)-1,4-dihydroxybutyl)-3-fluorophenyl)pyridine-2-carboxamide | [Si](C)(C)(C(C)(C)C)OC(C(O)C1=C(C=C(C=C1)NC(=O)C1=NC=CC=C1)F)CCO | C22H31FN2O4Si
